Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
disequlibrium and L leg heaviness
 
Major Surgical or Invasive Procedure:
na
 
History of Present Illness:
The patient is a ___ year old man with a history of HTN, HLD,
NSTEMI, pre-DM, depression, presenting with an episode of
disequlibrium and L leg heaviness which is now resolved.

The patient was in his normal state of health until 4 AM when he
woke up to go to the bathroom (which he commonly does several
times per night). Lying in bed after waking up he experienced a
rocking type sensation of movement. When he stood up he felt 
very
unsteady and off balance. Denied frank vertigo or presyncope. He
had to hold onto the walls and the furniture while walking to 
the
bathroom, and held onto the sink to sit down onto the toilet. He
felt nausous but did not vomit. He used the bathroom and was 
able
to walk back to bed with difficulty and went back to sleep. He
woke up again around 9 AM and went downstairs for breakfast.
Walking down the stairs, he noted a feeling of heaviness in his 
L
leg. He did not trip or fall or notice frank weakness, but did
have this sensation of heaviness. He still had some persistant
disequlibrium (had to hold onto the railing for support) and
nausea but this was not as severe as previously. He got
downstairs and took a sip of tea but was not hungry enough to 
eat
more breakfast. He told his family he was feelign off and his
brother (a doctor) came over to check him out, taking an EKG and
vitals signs, and recommended he go to the ED. He did not feel
well enough to drive himself so his daughter drove him to the ED
around 11:30. His symptoms continued to improve during this time
and by the time of my evaluation (3:30 ___ these were completely
resolved. 

The patient has had some achy posterior L shoulder pain several
inches below the base of his L neck, just above his scapula. 
This
is an achy nagging pain. No injury to his neck or shoulder
recently or atypical physical activity is reported.
 
Past Medical History:
- HTN
- HLD
- h/o NSTEMI ___ s/o balloon angioplasty
- OSA w/ intermittent use of CPAP (not using at this time due to
uncomfortale mask)
- pre-DM A1C 6.3
- depression 
- memory difficulty, referred to neuropsych eval outpatient for
difficulty remembering the names of ___ x ___ months
- peripheral edema
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death;  Mother had a stent placed when she was 
___.  

 
Physical Exam:
Admission exam:
***************
VS 97.5 70 130/77 18 98% RA
General: NAD, lying in bed comfortably. 
Head: NC/AT, no conjunctival icterus, no oropharyngeal lesions 
Neck: Supple, no nuchal rigidity, no meningismus

Bedside swallow eval - passed

Neurologic Examination:

- Mental Status - 
Awake, alert, oriented x 3. Attention to examiner easily 
attained
and maintained. Concentration maintained when recalling months
backwards. Recalls a coherent history. Structure of speech
demonstrates fluency with full sentences, intact repetition, and
intact verbal comprehension. Content of speech demonstrates
intact naming (although unabel to name hammock, can name cactus
and stethoscope) and no paraphasias. Normal prosody. No
dysarthria. Verbal registration and recall ___. No evidence of
hemineglect. No left-right agnosia.

- Cranial Nerves -
I. not tested
II. Equal and reactive pupils (3mm to 2mm). Visual acuity fields
were full to finger counting.  
III, IV, VI. smooth and full extraocular movements without
diplopia or nystagmus.  
V. facial sensation was intact, muscles of mastication with full
strength
VII. face was symmetric with full strength of facial muscles
VIII. hearing was intact to finger rub bilaterally.  
IX, X. symmetric palate elevation and symmetric tongue 
protrusion
with full movement.
XI. SCM and trapezius were of normal strength and volume.

- Motor -
Muscule bulk and tone were normal. No pronation, no drift. No
tremor or asterixis.
  Delt   Bic  Tri ECR Fext Fflx IP   Quad   Ham   TA   Gas
L  5      5    ___    5    5      5     5    5     5
R  5      5    ___    5    5      5     5    5     5

- Sensation -
Intact to light touch, cold, and proprioception throughout.  

- DTRs -
 Bic    Tri   ___   Quad   Gastroc
L 2      1      2      2        2
R 2      1      2      2        2
Plantar response flexor bilaterally.

- Cerebellar -
No dysmetria with finger to nose testing bilaterally. Good speed
and intact cadence with rapid alternating movements. Negative
head impulse test.

- Gait -
Normal initiation. Narrow base. Normal stride length and arm
swing. Stable without sway. No Romberg. Negative ___
test. Mild difficulty with tandem gait.

***************
Discharge exam: 
***************
Exam significant for subtle findings of clumsiness on the left 
side ___ with RAM. very mild left dysmetria. remainder of exam 
is wnl. 
 
Pertinent Results:
___ 11:44AM BLOOD WBC-5.9 RBC-5.06 Hgb-15.5 Hct-45.5 MCV-90 
MCH-30.6 MCHC-34.0 RDW-13.0 Plt ___
___ 11:44AM BLOOD Neuts-72.8* Lymphs-17.1* Monos-6.2 
Eos-3.4 Baso-0.5
___ 11:44AM BLOOD ___ PTT-31.2 ___
___ 11:44AM BLOOD Glucose-107* UreaN-19 Creat-1.0 Na-135 
K-6.4* Cl-102 HCO3-25 AnGap-14
___ 11:44AM BLOOD ALT-25 AST-49* AlkPhos-48 TotBili-0.5
___ 05:28AM BLOOD CK(CPK)-157
___ 05:28AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.0 Cholest-132
___ 11:44AM BLOOD Albumin-4.4
___ 05:28AM BLOOD %HbA1c-6.3* eAG-134*
___ 05:28AM BLOOD Triglyc-127 HDL-43 CHOL/HD-3.1 LDLcalc-64 
LDLmeas-70
___ 05:28AM BLOOD TSH-1.7
___ 05:21PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:51PM BLOOD K-4.9

NCHCT & CTA head and neck: ___
1.  No steno-occlusive disease of the intracranial or cervical 
carotid 
arterial system. 
2.  Mild atherosclerotic disease at the origin of the left 
vertebral artery. 
3.  No intracranial hemorrhage or evidence of infarct. 

MRI brain ___:
1.  No evidence of acute intracranial process. No evidence of 
posterior 
circulation infarction. 
  
2.  Arachnoid cyst or asymmetric ___ cisterna magna in the 
posterior fossa, more onto the left side, unchanged since ___ with indentation on the adjacent cerebellar hemispheres, 
the clinical significance of which is uncertain. 

 
Brief Hospital Course:
Mr ___ is a ___ yo man with a history of HTN, HLD, NSTEMI, 
pre-DM and depression who presented with disequlibrium and L leg 
heaviness which resolved by the time of neurologic evaluation. 
Neuro exam was notable for subtle left side clumsiness in upper 
and lower extr and mild left sided dysmetria. MRI is without 
evidence of infarct. CTA head and neck with ~40% stenosis at the 
origin of the left vertebral artery. Given that his exam is 
still subtly abnormal this is most likely an MRI negative 
stroke, cerebellar vs brainstem. Given multiple stroke risk 
factors we will assume this is a stroke. We have increased his 
aspirin to 325mg daily. No other changes were made. He had a 
recent ECHO so this was not repeated. Cause of his stroke may 
have been related to his stenosis of the vertebral artery vs 
small vessel disease. 

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack

1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident] 

2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No

3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No

4. LDL documented (required for all patients)? (x) Yes (LDL = 
70) - () No

5. Intensive statin therapy administered? () Yes - (x) No [if 
LDL >= 100, reason not given: ____ ]

6. Smoking cessation counseling given? () Yes - (x) No [if no, 
reason: (x) non-smoker - () unable to participate]

7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)

8. Assessment for rehabilitation or rehab services considered? 
() Yes - (x) No [if no, reason not assessed: no limitation to 
function]

9. Discharged on statin therapy? (x) Yes - () No 

10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No

11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - (x) N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Aspirin 81 mg PO DAILY 
5. Cyanocobalamin ___ mcg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. CoQ-10 (coenzyme Q10) 100 mg oral Daily 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. CoQ-10 (coenzyme Q10) 100 mg oral Daily 
4. Cyanocobalamin ___ mcg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Vitamin D ___ UNIT PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Cerebral embolism without infarction.
2.Transient unsteady gait with left leg heaviness concerning for 
TIA/ ISCHEMIC INFARCTION.
3. History of chronic hypertension.
4. History of hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
The patient is afebrile, awake, alert oriented x3, no abnormal 
finding in the cranial nerve exam, no focal weakness, no sensory 
abnormality was found in the exam.
Subtle abnormal cerebellar exam, on the left side.

 
Discharge Instructions:
Dear Mr ___,
You were hospitalized due to symptoms of disequlibrium and left 
leg heaviness resulting from an ACUTE ISCHEMIC STROKE, a 
condition in which a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
pre-diabetes 
high cholesterol 

We are changing your medications as follows:
increasing your aspirin to 325mg daily 

Please take your other medications as prescribed.
Please followup with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- sudden partial or complete loss of vision
- sudden loss of the ability to speak words from your mouth
- sudden loss of the ability to understand others speaking to 
you
- sudden weakness of one side of the body
- sudden drooping of one side of the face
- sudden loss of sensation of one side of the body
- sudden difficulty pronouncing words (slurring of speech)
- sudden blurring or doubling of vision
- sudden onset of vertigo (sensation of your environment 
spinning around you)
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)
- sudden severe headache accompanied by the inability to stay 
awake
It was a pleasure providing you with care during this 
hospitalization.

 
Followup Instructions:
___